US04783537
To a refluxing suspension of 35 g (0.90 mol) of NaNH2 in 750 ml of toluene was added, dropwise with mechanical stirring under N2, 100 g (0.85 mol) of phenylacetonitrile in 100 ml of toluene. The resulting suspension was stirred at reflux for a further 3 hr. Then, 92.5 g (0.86 mol) of 2-dimethylaminoethyl chloride in 50 ml of toluene was added dropwise, and the resulting dark suspension was first heated at reflux for 41/2 hr and then stirred at RT for 16 hr. Water (1.5 liters) was added to the mixture, and the organic layer was separated and extracted with 1N HCl. The acid extract was cooled in ice and then basified with 2.5N NaOH. The product was extracted from the basified solution with Et2O. The ethereal extract was dried (Na2SO4) and concentrated by evaporation. Distillation of the resulting crude oil afforded 35 g (52.5%) of the desired 4-dimethylamino-2-phenylbutanenitrile as a colorless oil; bp 95°-98°/0.1 mm.

reactant | phenylacetonitrile | 0.85 mol, 100 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | 2-dimethylaminoethyl chloride | 0.86 mol, 92.5 g | CN(CCCl)C | C4H10ClN
reactant | Water | 1.5 liters | O | H2O
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-dimethylamino-2-phenylbutanenitrile | 35 g, 52.5% | CN(CCC(C#N)C1=CC=CC=C1)C | C12H16N2
